US07205327B2
[3S/R, 4S/R, (2S)]-5-Fluoro-4-hydroxy-3-{2-[(1H-imidazole-2-carbonyl)-amino]-propionylamino}-pentanoic acid tert-butyl ester
A solution of (2S)-2-[(1H-imidazole-2-carbonyl)-amino]-propionic acid and 3-amino-5-fluoro-4-hydroxy-pentanoic acid tert-butyl ester (0.254 g) in THF (7 mL) was cooled to 0° C. before addition of DMAP (0.151 g), diisopropylethyl amine (0.56 mL), HOBT (0.16 g) and EDC.HCl (0.23 g). The reaction mixture stirred at ambient temperature for 18 hrs before being concentrated at reduced pressure. The residue was purified by silica gel chromatography (5% methanol in dichloromethane) to afford the sub-title compound as a colourless solid (0.386 g, 97%): 1H NMR 400 MHz CDCl3/CD3OD 1.40 (12H, m), 3.92 (1H, m), 4.20–4.55 (4H, m), 7.11 (2H, d, J 15) 19F NMR CDCl3−229.74 (m), −229.84 (m), −230.54 (m), −230.87 (m).

reactant | (2S)-2-[(1H-imidazole-2-carbonyl)-amino]-propionic acid | N1C(=NC=C1)C(=O)N[C@H](C(=O)O)C | C7H9N3O3
reactant | 3-amino-5-fluoro-4-hydroxy-pentanoic acid tert-butyl ester | 0.254 g | C(C)(C)(C)OC(CC(C(CF)O)N)=O | C9H18FNO3
reactant | diisopropylethyl amine | 0.56 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | HOBT | 0.16 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC.HCl | 0.23 g | CCN=C=NCCCN(C)C.Cl
solvent | THF | 7 mL | C1CCOC1 | C4H8O
catalyst | DMAP | 0.151 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | 5-Fluoro-4-hydroxy-3-{2-[(1H-imidazole-2-carbonyl)-amino]-propionylamino}-pentanoic acid tert-butyl ester | 0.386 g, 97% | C(C)(C)(C)OC(CC(C(CF)O)NC(C(C)NC(=O)C=1NC=CN1)=O)=O | C16H25FN4O5
